US07687524B2
Step 1: Preparation of (6-chloropyridin-3-yl)methanol
To a −78° C. solution of ethyl 6-chloronicotinate (10 g) in 250 mL of THF was slowly added 126 mL of lithium aluminium hydride (1.5 M in toluene). The mixture was stirred at 0° C. for 1 hour. Poured into saturated aqueous tartaric acid (200 mL) and extracted with ethyl acetate (2×200 mL). The combined extracts were washed with brine, dried with magnesium sulfate and the solvent removed in vacuo. The residue was purified by chromatography on SiO2 using ethyl acetate and hexanes (1:2 to 1:1) to yield the title compound.

reactant | ethyl 6-chloronicotinate | 10 g | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
reactant | lithium aluminium hydride | 1.5 M, 126 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tartaric acid | 200 mL | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | (6-chloropyridin-3-yl)methanol | ClC1=CC=C(C=N1)CO | C6H6ClNO
